US04618607
In 300 ml of isopropanol are dissolved 28.9 g of 1-phenyl-2-piperidinoethyl acetoacetate, 15.1 g of m-nitrobenzaldehyde and 11.5 g of methyl β-aminocrotonate, and the mixture is refluxed under heating for 17 hours. The reaction mixture is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel (eluent:chloroform:methanol=10:1 (by volume)). The eluate containing the object compound is concentrated and recrystallized from isopropanol to give 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-methylester-5-(1-phenyl-2-piperidinoethyl)ester as crystals melting at 183°-185° C. (decomposition). This is α-diastereoisomer. The hydrochloride thereof melts at 238°-240° C. (decomposition). The β-diastereoisomer which can be obtained in similar manner melts at 127°-130° C. (from isopropanol), and the hydrochloride thereof melts at 222°-223° C. (decomposition) (from ethanol).

reactant | 1-phenyl-2-piperidinoethyl acetoacetate | 28.9 g | C(CC(=O)C)(=O)OC(CN1CCCCC1)C1=CC=CC=C1 | C17H23NO3
reactant | m-nitrobenzaldehyde | 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl β-aminocrotonate | 11.5 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-methylester-5-(1-phenyl-2-piperidinoethyl)ester | C1(=CC=CC=C1)C(CN1CCCCC1)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C29H33N3O6
